US08709994B2
In a 1 L three-necked round-bottom flask equipped with a mechanical stirrer and a reflux condenser were introduced DMF (300 mL), 3-bromo toluene (66.3 g, 0.39 mol), of crotyl alcohol (99 mL, 1.16 mol, 3 eq), sodium carbonate (102.5 g, 0.97 mol, 2.5 eq), tetrabutyl-ammonium bromide (107.6 g, 0.39 mol, 1 eq), palladium acetate (7.8 g, 11.6 mmol, 3 mol %) and tri-o-tolyl phosphine (11.8 g, 38.7 mmol, 0.1 eq). After stirring for 1 h at 100-105° C., the reaction mixture was cooled to ambient temperature. The reaction mixture was filtered over celite. The organic phase thus obtained was diluted with MTBE (800 mL) and washed three times with water (500 mL portions), dried over magnesium sulphate and concentrated. The resulting crude product was fractionally distilled with a Vigreux column (1 mBar, 70-81° C.) to give a colourless oil (39.6 g, gc purity 90%). The oil was chromatographed on a silica gel column with 7% EtOAc in hexane as elution agent giving 3-(3-methylphenyl)butanal (12.5 g, gc purity>99%; yield 36%).

reactant | 3-bromo toluene | 0.39 mol, 66.3 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | crotyl alcohol | 1.16 mol, 99 mL, 3 eq | C(C=CC)O | C4H8O
reactant | sodium carbonate | 0.97 mol, 102.5 g, 2.5 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-o-tolyl phosphine | 38.7 mmol, 11.8 g, 0.1 eq | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | tetrabutyl-ammonium bromide | 0.39 mol, 107.6 g, 1 eq | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | MTBE | 800 mL | CC(C)(C)OC | C5H12O
catalyst | palladium acetate | 11.6 mmol, 7.8 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 3-(3-methylphenyl)butanal | 12.5 g, yield 36% | CC=1C=C(C=CC1)C(CC=O)C | C11H14O
